US07199239B2
[4-({Butyl[6-(4-methoxyphenyl)-5-methylpyrimidin-4-yl]amino}methyl)-2-methylphenoxy]acetic acid
To a solution of ethyl [4-({butyl[6-(4-methoxyphenyl)-5-methylpyrimidin-4-yl]amino}methyl)-2-methylphenoxy]acetate (62 mg, 0.13 mmol) in methanol (2 mL) and tetrahydrofuran (2 mL), was added 2M sodium hydroxide (1 mL). After shaking for 1 h at room temperature the solvent was removed. The residue was then acidified with 0.5M HCl aq. (20 mL), before extraction into EtOAc (2×25 mL). The organic solution was washed with brine, dried (MgSO4) and the solvents removed in vacuo to afford the title compound as a pale yellow solid (58 mg).

reactant | ethyl [4-({butyl[6-(4-methoxyphenyl)-5-methylpyrimidin-4-yl]amino}methyl)-2-methylphenoxy]acetate | 0.13 mmol, 62 mg | C(CCC)N(C1=NC=NC(=C1C)C1=CC=C(C=C1)OC)CC1=CC(=C(OCC(=O)OCC)C=C1)C | C28H35N3O4
reactant | sodium hydroxide | 2M, 1 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | [4-({Butyl[6-(4-methoxyphenyl)-5-methylpyrimidin-4-yl]amino}methyl)-2-methylphenoxy]acetic acid | 58 mg | C(CCC)N(C1=NC=NC(=C1C)C1=CC=C(C=C1)OC)CC1=CC(=C(OCC(=O)O)C=C1)C | C26H31N3O4
